* ZVS (Zero Voltage Switching) Verification Simulation
* sim_25_zvs_verification.cir
*
* PURPOSE: Verify soft-switching conditions for the half-bridge
*          driving the resonant tank. ZVS reduces switching losses
*          by ensuring voltage across the switch is zero before turn-on.
*
* THEORY:
* For ZVS operation:
* 1. Operate above resonant frequency (inductive mode)
* 2. Tank current lags voltage (phase < 0)
* 3. During dead-time, current flows through anti-parallel diode
* 4. This clamps switch voltage to ~0V before turn-on
*
* ZVS CONDITIONS:
* - Current must be large enough to charge/discharge Coss
* - Dead-time must be long enough for voltage transition
* - Frequency must be above resonance (current lags voltage)
*
* VERIFICATION METRICS:
* 1. Switch voltage < 10V at turn-on (ZVS achieved)
* 2. Current direction during dead-time (must be correct for ZVS)
* 3. Voltage transition completes before gate turn-on
*
***************************************************************************

.title ZVS (Zero Voltage Switching) Verification

***************************************************************************
* CONVERGENCE OPTIONS
***************************************************************************
.options reltol=1e-3
.options abstol=1e-9
.options vntol=1e-4
.options gmin=1e-10
.options method=gear
.options maxord=2
.options itl1=500
.options itl2=200
.options itl4=100

***************************************************************************
* INCLUDE MODELS
***************************************************************************
.include ../models/IKW40N120H3.lib
.include ../models/pan_load.sub

***************************************************************************
* SIMULATION PARAMETERS
***************************************************************************
* Operating point for ZVS: slightly above resonance
.param VDC=320               ; DC bus voltage
.param F_RES=35.8k           ; Resonant frequency of tank
.param F_SW=38k              ; Switching frequency (above resonance for ZVS)
.param PERIOD={1/F_SW}       ; ~26.3us
.param DUTY=0.48             ; Near 50% duty for symmetric operation
.param T_ON={PERIOD*DUTY}    ; On-time
.param DT_NS=500             ; Dead-time in ns
.param DT={DT_NS*1n}         ; Dead-time in seconds

* Gate drive parameters
.param VGE_ON=15             ; Gate drive voltage
.param RG=5                  ; Gate resistor

* Resonant tank parameters
.param C_RES=330n            ; Resonant capacitor
.param L_EFF=60u             ; Effective inductance (with pan coupled)
.param R_LOAD=8              ; Reflected pan resistance

***************************************************************************
* POWER SUPPLIES
***************************************************************************
* DC Bus with soft-start
V_dcbus vbus 0 PWL(0 0 20u {VDC} 500u {VDC})

* Split DC bus for return path
* In real circuit, resonant cap connects to bus midpoint or uses
* series topology. Here we use a virtual midpoint.
V_bus_mid vmid 0 DC {VDC/2}

* Bus capacitors
C_bus_p vbus vmid 470u IC={VDC/2}
C_bus_n vmid 0 470u IC={VDC/2}

* Gate driver supplies (referenced correctly)
V_vdd_hi vdd_hi gnd_hi DC {VGE_ON}
V_vdd_lo vdd_lo 0 DC {VGE_ON}

***************************************************************************
* GATE DRIVE SIGNALS
* Operating at 38kHz for ZVS (above 35.8kHz resonance)
***************************************************************************
* High-side gate (Q1): ON during first part of period
V_gate_hi_src gate_hi_in gnd_hi PWL(
+ 0 0
+ {DT/2} 0
+ {DT/2 + 10n} {VGE_ON}
+ {T_ON - 10n} {VGE_ON}
+ {T_ON} 0
+ {PERIOD} 0
+ {PERIOD + DT/2} 0
+ {PERIOD + DT/2 + 10n} {VGE_ON}
+ {PERIOD + T_ON - 10n} {VGE_ON}
+ {PERIOD + T_ON} 0
+ {2*PERIOD} 0
+ {2*PERIOD + DT/2} 0
+ {2*PERIOD + DT/2 + 10n} {VGE_ON}
+ {2*PERIOD + T_ON - 10n} {VGE_ON}
+ {2*PERIOD + T_ON} 0
+ {3*PERIOD} 0
+ {3*PERIOD + DT/2} 0
+ {3*PERIOD + DT/2 + 10n} {VGE_ON}
+ {3*PERIOD + T_ON - 10n} {VGE_ON}
+ {3*PERIOD + T_ON} 0
+ {4*PERIOD} 0
+ {4*PERIOD + DT/2} 0
+ {4*PERIOD + DT/2 + 10n} {VGE_ON}
+ {4*PERIOD + T_ON - 10n} {VGE_ON}
+ {4*PERIOD + T_ON} 0
+ {5*PERIOD} 0
+ {5*PERIOD + DT/2} 0
+ {5*PERIOD + DT/2 + 10n} {VGE_ON}
+ {5*PERIOD + T_ON - 10n} {VGE_ON}
+ {5*PERIOD + T_ON} 0
+ 500u 0)

R_gate_hi gate_hi_in gate_hi {RG}

* Low-side gate (Q2): ON during second part of period (complementary)
V_gate_lo_src gate_lo_in 0 PWL(
+ 0 0
+ {T_ON + DT} 0
+ {T_ON + DT + 10n} {VGE_ON}
+ {PERIOD - 10n} {VGE_ON}
+ {PERIOD} 0
+ {PERIOD + T_ON + DT} 0
+ {PERIOD + T_ON + DT + 10n} {VGE_ON}
+ {2*PERIOD - 10n} {VGE_ON}
+ {2*PERIOD} 0
+ {2*PERIOD + T_ON + DT} 0
+ {2*PERIOD + T_ON + DT + 10n} {VGE_ON}
+ {3*PERIOD - 10n} {VGE_ON}
+ {3*PERIOD} 0
+ {3*PERIOD + T_ON + DT} 0
+ {3*PERIOD + T_ON + DT + 10n} {VGE_ON}
+ {4*PERIOD - 10n} {VGE_ON}
+ {4*PERIOD} 0
+ {4*PERIOD + T_ON + DT} 0
+ {4*PERIOD + T_ON + DT + 10n} {VGE_ON}
+ {5*PERIOD - 10n} {VGE_ON}
+ {5*PERIOD} 0
+ 500u {VGE_ON})

R_gate_lo gate_lo_in gate_lo {RG}

***************************************************************************
* HIGH-SIDE IGBT (Q1)
***************************************************************************
X_Q1 vbus gate_hi midpoint IKW40N120H3

* High-side gate ground reference
V_gnd_hi_ref gnd_hi midpoint DC 0

***************************************************************************
* LOW-SIDE IGBT (Q2)
***************************************************************************
X_Q2 midpoint gate_lo 0 IKW40N120H3

***************************************************************************
* RESONANT TANK
***************************************************************************
* Series LC tank from midpoint to bus midpoint
* This is the quasi-resonant topology used in induction cookers

* Resonant capacitor
C_res midpoint n_cap {C_RES} IC=0

* Effective coil inductance (with pan coupling)
L_coil n_cap n_l {L_EFF} IC=0

* Coil AC resistance
R_coil n_l n_r 0.1

* Reflected pan resistance (power delivery)
R_pan n_r vmid {R_LOAD}

***************************************************************************
* ANALYSIS
***************************************************************************
.tran 5n 300u 0 5n uic

***************************************************************************
* MEASUREMENTS - ZVS VERIFICATION
***************************************************************************
* Window for measurements (after startup settling)
.param T_START=150u
.param T_END=280u

* Voltage across Q2 (low-side) at turn-on events
* ZVS achieved if V_ce_lo < 10V when gate goes high
.meas tran V_Q2_ce_max MAX v(midpoint) FROM={T_START} TO={T_END}
.meas tran V_Q2_ce_min MIN v(midpoint) FROM={T_START} TO={T_END}

* Tank current (through inductor)
.meas tran I_tank_max MAX i(L_coil) FROM={T_START} TO={T_END}
.meas tran I_tank_min MIN i(L_coil) FROM={T_START} TO={T_END}
.meas tran I_tank_rms RMS i(L_coil) FROM={T_START} TO={T_END}

* Resonant capacitor voltage
.meas tran V_cap_max MAX v(n_cap) FROM={T_START} TO={T_END}

***************************************************************************
* CONTROL SCRIPT
***************************************************************************
.control
run

echo ""
echo "============================================================"
echo "ZVS Verification Simulation - Simulation 25"
echo "============================================================"
echo ""

echo "CONFIGURATION:"
echo "  DC Bus Voltage: 320V"
echo "  Resonant frequency: 35.8 kHz (calculated)"
echo "  Switching frequency: 38 kHz (above resonance)"
echo "  Dead-time: 500 ns"
echo "  Resonant cap: 330 nF"
echo "  Effective inductance: 60 uH"
echo "  Reflected resistance: 8 ohm"
echo ""

echo "============================================================"
echo "MEASUREMENT RESULTS (see above for values)"
echo "============================================================"
echo ""
echo "V_Q2_ce_max: Midpoint maximum voltage (should be ~320V)"
echo "V_Q2_ce_min: Midpoint minimum voltage (ZVS: <10V, otherwise ~0V)"
echo "I_tank_max/min: Peak tank current (+/-)"
echo "I_tank_rms: RMS current for power calculation"
echo "V_cap_max: Resonant capacitor peak voltage"
echo ""

echo "============================================================"
echo "ZVS ANALYSIS"
echo "============================================================"
echo ""
echo "ZVS is achieved when:"
echo "1. Operating above resonance (38kHz > 35.8kHz) - CHECK"
echo "2. V_Q2_ce_min is near 0V at turn-on"
echo "3. Current flows through body diode during dead-time"
echo ""
echo "Power to pan = I_rms^2 * R_pan"
echo "Example: (1.88A)^2 * 8ohm = 28W (low power during startup)"
echo ""
echo "At full operation with ~20A RMS:"
echo "P = 20^2 * 8 = 3200W"
echo ""

echo "============================================================"
echo "RECOMMENDATIONS"
echo "============================================================"
echo ""
echo "1. Optimal ZVS operating point:"
echo "   - Frequency: 5-15% above resonance"
echo "   - Dead-time: 500ns - 1us"
echo "   - Tank current: > 5A minimum for reliable ZVS"
echo ""
echo "2. Power control:"
echo "   - Higher frequency = less power"
echo "   - Range: f_res to f_res + 50%"
echo ""

quit
.endc

.end
